US09422293B2
[2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine
4-Chloro-2-methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine. To a solution of 2-methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol (1.8 g, 4.92 mmol) in CH3CN (40 mL) was added POCl3 (1.4 mL, 14.8 mmol). After 15 min at 80° C., the mixture was cooled to rt, diluted with EtOAc, and quenched slowly with satd. aq. NaHCO3. The organic layer was separated, dried (MgSO4), and concentrated. The crude residue was purified (FCC) to give the title compound (1.6 g, 89%).

reactant | 4-Chloro-2-methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | ClC1=NC(=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F)SC | C15H14ClF3N4S
reactant | 2-methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-ol | 4.92 mmol, 1.8 g | CSC=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)O | C15H15F3N4OS
reactant | POCl3 | 14.8 mmol, 1.4 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | CH3CN | 40 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine | 1.6 g, 89% | CSC=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)NC1=CC=C(C=C1)C(F)(F)F | C22H19F6N5S
